US08003800B2
Mercapto-acetic acid ethyl ester (9.86 g, 82.1 mmol) is slowly added to a solution of KOtBu (9.50 g, 84.7 mmol) in ethanol (50 mL) cooled to 10-15° C. The mixture is diluted with THF (100 mL) before a solution of the crude 1-chloro-2-isobutyl-4-methyl-pent-1-en-3-one (corresponds to 8.1 g, 43 mmol) in THF (50 mL) is added. The reaction mixture is stirred at 40° C. for 15 h, then at reflux for further 20 h, and at 35° C. for 48 h. The mixture is diluted with ether (300 mL) and washed with 1N aq. NaOH (3×100 mL), 1 M aq. KHSO4 (100 mL) and brine (100 mL). The organic phase is dried (Na2SO4), filtered and evaporated. The resulting residue is dissolved in ethanol (30 mL), 2 N aq. LiOH (30 mL) is added, and the mixture is stirred at reflux for 48 h. The mixture is extracted with diethyl ether, then the aq. phase is acidified with 25% aq. HCl and extracted with DCM. The organic extracts are dried (MgSO4), filtered and evaporated. The brown oil is diluted in acetonitrile (5 mL) and allowed to crystallize at 4° C. The crystalline material is collected, washed with acetonitrile and dried to afford pure 4-isobutyl-3-isopropyl-thiophene-2-carboxylic acid (98 mg) as pale yellow crystals; 1H NMR (CD3OD): δ 7.16 (s, 1H), 3.68 (hept, J=7.0 Hz, 1H), 2.48 (d, J=7.6 Hz, 2H), 1.84 (hept, J=7.0 Hz, 1H), 1.34 (d, J=7.0 Hz, 6H), 0.92 (d, J=6.4 Hz, 6H).

reactant | Mercapto-acetic acid ethyl ester | 82.1 mmol, 9.86 g | C(C)OC(CS)=O | C4H8O2S
reactant | KOtBu | 84.7 mmol, 9.50 g | CC(C)(C)[O-].[K+]
reactant | 1-chloro-2-isobutyl-4-methyl-pent-1-en-3-one | 43 mmol, 8.1 g | ClC=C(C(C(C)C)=O)CC(C)C | C10H17ClO
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ether | 300 mL | CCOCC | C4H10O
product | 4-isobutyl-3-isopropyl-thiophene-2-carboxylic acid | 98 mg | C(C(C)C)C=1C(=C(SC1)C(=O)O)C(C)C | C12H18O2S
